US09023840B2
Step 6: 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
4-Bromo-1H-pyrrolo[2,3-b]pyridine (10.0 g, 0.0508 mol, Aldrich: Cat. #703451) was dissolved in N,N-dimethylformamide (100 mL) and cooled under nitrogen to 0° C. Sodium hydride (3.00 g, 0.0750 mol, 60% dispersion in mineral oil) was added portion-wise. The reaction was stirred for 10 minutes. [β-(Trimethylsilyl)ethoxy]methyl chloride (10.8 mL, 0.0609 mol, Aldrich: Cat. #238902) was added slowly to the reaction mixture, stirred at 0° C. for 45 minutes, and allowed to warm to room temperature. The solvent was removed under reduced pressure. The residue was diluted with ethyl ether (100 mL), and washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (0-25%) to afford the desired product (16.04 g, 96.6%). LCMS (M+H)+: m/z=327.0/329.0

reactant | 4-Bromo-1H-pyrrolo[2,3-b]pyridine | 0.0508 mol, 10.0 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | Sodium hydride | 0.0750 mol, 3.00 g | [H-].[Na+]
reactant | [β-(Trimethylsilyl)ethoxy]methyl chloride | 0.0609 mol, 10.8 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 16.04 g, 96.6% | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
